US06358943B1
1-[2-(4-Chloromethyl-phenoxy)-ethyl]-piperidine
This material is prepared from the amino alcohol 1-[2-(4-Hydroxymethyl-phenoxy)-ethyl]piperidine by treatment with thionyl chloride in THF at 0° C. Resulting solid is used without further purification.

reactant | amino alcohol 1-[2-(4-Hydroxymethyl-phenoxy)-ethyl]piperidine | OCC1=CC=C(OCCN2CCCCC2)C=C1.NO
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | THF | C1CCOC1 | C4H8O
product | 1-[2-(4-Chloromethyl-phenoxy)-ethyl]-piperidine | ClCC1=CC=C(OCCN2CCCCC2)C=C1 | C14H20ClNO
